### PR TITLE
rt haskell + refine: prove si_invs', sfi_invs_plus' and hf_invs'

### PR DESCRIPTION
**Pull request by ryybrr**
Proved si_invs' and updated the haskell spec in a few places.

### CODE REVIEW

File: proof/refine/ARM/IpcCancel_R.thy [hunk 1]
```diff
@@ -2868,11 +2868,11 @@ proof -
 qed
 
 lemma replyUnlink_sch_act[wp]:
-  "\<lbrace>\<lambda>s. sch_act_wf (ksSchedulerAction s) s \<and> sch_act_not t s\<rbrace>
-   replyUnlink r t
-   \<lbrace>\<lambda>_ s. sch_act_wf (ksSchedulerAction s) s\<rbrace>"
-  apply (clarsimp simp: replyUnlink_def setReplyTCB_def getReplyTCB_def liftM_def)
-  by (wpsimp wp: sts_sch_act' hoare_drop_imp)
+  "replyUnlink r t \<lbrace>\<lambda>s. sch_act_wf (ksSchedulerAction s) s\<rbrace>"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:2871]: Sweeet

File: proof/refine/ARM/Ipc_R.thy [hunk 2]
```diff
@@ -3560,160 +3560,622 @@ lemma cteInsert_ct'[wp]:
...
+  apply (auto simp: obj_at'_def projectKO_eq projectKO_sc valid_idle'_def)
+  done
+
+lemma schedContextDonate_valid_release_queue'[wp]:
+  "schedContextDonate scPtr tcbPtr \<lbrace>valid_release_queue'\<rbrace>"
+  unfolding schedContextDonate_def
+  by (wpsimp wp: threadSet_valid_release_queue' simp: obj_at_ko_at'_eq valid_release_queue'_def
+      | rule hoare_strengthen_post[where Q="\<lambda>_. valid_release_queue'"])+
+
+lemma schedContextDonate_assume_asserts:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:3640]: A little rule to introduce the `sc_at'` fact is nice, but I'd prefer to not include the `sym_refs` assert here; we may add more asserts in the future, which would mean updating this too, and it's easy enough to use `stateAssert_sp` to add the assert to the preconditions

File: proof/refine/ARM/Ipc_R.thy [hunk 3]
```diff
@@ -3560,160 +3560,622 @@ lemma cteInsert_ct'[wp]:
...
+  apply (simp only: obj_at'_real_def)
+  apply (wp set_reply'.ko_wp_at)
+  apply (auto simp: obj_at'_def ko_wp_at'_def projectKO_eq projectKO_reply)
+  done
+
+lemma setReplyTCB_obj_at':
+  "\<lbrace>\<lambda>s. reply_at' rptr s \<longrightarrow>
+          P (obj_at' (\<lambda>ko. if rptr = p then Q (replyTCB_update (\<lambda>_. tptrOpt) ko) else Q ko) p s)\<rbrace>
+   setReplyTCB tptrOpt rptr
+  \<lbrace>\<lambda>rv s. P (obj_at' (Q :: reply \<Rightarrow> bool) p s)\<rbrace>"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:3702]: Nitpick: indentation?

File: proof/refine/ARM/Ipc_R.thy [hunk 4]
```diff
@@ -3560,160 +3560,622 @@ lemma cteInsert_ct'[wp]:
...
+     (fastforce simp: valid_tcb_state'_def valid_bound_obj'_def obj_at'_def projectKO_eq
+                      projectKO_ep projectKO_reply projectKO_ntfn projectKO_tcb
+               split: thread_state.splits option.splits)
+
+crunches setThreadState
+  for sc_at'_n[wp]: "sc_at'_n n p"
+  and sc_ko_at'[wp]: "\<lambda>s. P (ko_at' (sc :: sched_context) p s)"
+  (wp: crunch_wps simp: crunch_simps)
+
+definition replyPush' where
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:3794]: Maybe it'll become evident as I keep reviewing, but could you give me a little explanation as to why you want this new definition?

File: proof/refine/ARM/Ipc_R.thy [hunk 5]
```diff
@@ -3560,160 +3560,622 @@ lemma cteInsert_ct'[wp]:
...
+       replyPush' callerPtr calleePtr replyPtr canDonate scPtrOptDonated scPtrOptCallee;
+       when (scPtrOptDonated \<noteq> Nothing \<and> (if scPtrOptCallee \<noteq> Nothing then False else canDonate)) $
+           schedContextDonate (fromJust scPtrOptDonated) calleePtr od)
+   (replyPush callerPtr calleePtr replyPtr canDonate)"
+  unfolding replyPush_def replyPush'_def
+  apply (clarsimp simp only: K_bind_def bind_assoc)
+  apply (rule monadic_rewrite_gen_asm[simplified pred_conj_def]
+              monadic_rewrite_bind_tail[OF _ return_sp]
+              monadic_rewrite_bind_tail[OF _ hoare_post_taut])+
+  apply (case_tac "(scPtrOptDonated \<noteq> Nothing \<and> x)")
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:3846]: What's x? Could you do a rename_tac?

File: proof/refine/ARM/Ipc_R.thy [hunk 6]
```diff
@@ -3560,160 +3560,622 @@ lemma cteInsert_ct'[wp]:
...
+           simp: getReplyTCB_def obj_at'_def split_del: if_split)
+
+lemma replyPush_sch_act_wf:
+  "\<lbrace>\<lambda>s. sch_act_wf (ksSchedulerAction s) s \<and> sch_act_not callerPtr s\<rbrace>
+   replyPush callerPtr calleePtr replyPtr canDonate
+   \<lbrace>\<lambda>_ s. sch_act_wf (ksSchedulerAction s) s\<rbrace>"
+  unfolding replyPush_def getReplyTCB_def
+  by (wpsimp wp: sts_sch_act' hoare_vcg_all_lift hoare_vcg_if_lift hoare_drop_imps)
+
+lemma replyPush_sym_refs_helper:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:3883]: Could you put `list_refs_of_replies'` in the name of this one and the following lemma to distinguish it from regular old `sym_refs (state_refs_of' s)`?

File: proof/refine/ARM/Ipc_R.thy [hunk 7]
```diff
@@ -3560,160 +3560,622 @@ lemma cteInsert_ct'[wp]:
...
+        apply (wp hoare_vcg_all_lift hoare_vcg_const_imp_lift)
+        apply (simp (no_asm_use) add: replyPush'_def getReplyTCB_def split del: if_split
+               | wp hoare_vcg_all_lift hoare_vcg_disj_lift hoare_vcg_imp_lift'
+                    hoare_vcg_if_lift setReply_obj_at' setReplyTCB_obj_at'
+               | rule threadGet_wp)+
+  apply (clarsimp simp: obj_at'_def projectKO_eq projectKO_tcb projectKO_sc projectKO_reply)
+  apply (rule context_conjI; clarsimp simp: sym_refs_asrt_def)
+   apply (erule if_live_then_nonz_capE')
+   apply (drule_tac ko=obj in sym_refs_ko_atD'[rotated])
+    apply (auto simp: refs_of_rev' live_sc'_def idle_tcb'_def valid_idle'_def
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:3939]: Did we ever agree on a standard when using auto in the middle of a proof? Was it "subgoal by" that we wanted? (And check to see if a fastforce or something else is enough here, if you haven't already)

File: proof/refine/ARM/Ipc_R.thy [hunk 8]
```diff
@@ -3560,160 +3560,622 @@ lemma cteInsert_ct'[wp]:
...
+  "\<lbrace>\<lambda>s. invs' s \<and> sch_act_not callerPtr s \<and> st_tcb_at' active' callerPtr s \<and>
+        ex_nonz_cap_to' callerPtr s \<and> ex_nonz_cap_to' calleePtr s \<and> ex_nonz_cap_to' replyPtr s\<rbrace>
+   replyPush callerPtr calleePtr replyPtr canDonate
+   \<lbrace>\<lambda>_ s. invs' s\<rbrace>"
+  unfolding invs'_def valid_state'_def valid_pspace'_def
+  by (wpsimp wp: replyPush_valid_objs' replyPush_sch_act_wf replyPush_valid_queues
+                 replyPush_if_live_then_nonz_cap' replyPush_valid_idle'
+           simp: valid_pspace'_def)
+
+lemma setThreadState_Running_invs':
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:4004]: Can you generalise this to the case where the thread state is restart, or any other thread state? Is it because it's runnable? I'm not sure...

File: proof/refine/ARM/Ipc_R.thy [hunk 9]
```diff
@@ -3560,160 +3560,622 @@ lemma cteInsert_ct'[wp]:
...
-  sendIPC bl call ba cg cgr cd t ep
-  \<lbrace>\<lambda>rv. invs'\<rbrace>"
+   sendIPC bl call ba cg cgr cd t ep
+   \<lbrace>\<lambda>rv. invs'\<rbrace>"
   supply if_split[split del]
   apply (simp add: sendIPC_def)
+  apply (rule hoare_seq_ext[OF _ stateAssert_sp])
   apply (rule hoare_seq_ext [OF _ get_ep_sp'])
-  apply (case_tac epa)
+  apply (case_tac x)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:4097]: Rename_tac

File: proof/refine/ARM/Ipc_R.thy [hunk 10]
```diff
@@ -3560,160 +3560,622 @@ lemma cteInsert_ct'[wp]:
...
+                                   (\<exists>sc. bound_sc_tcb_at' ((=) sc) t s \<and>
+                                         ex_nonz_cap_to' (the sc) s))"
+                     in hoare_strengthen_post[rotated])
+         apply (fastforce simp: obj_at'_def projectKO_eq projectKO_tcb
+                                pred_tcb_at'_def invs'_def valid_state'_def
+                         dest!: global'_no_ex_cap)
+        apply (wpsimp simp: invs'_def valid_state'_def valid_pspace'_def comp_def sym_refs_asrt_def
+                        wp: hoare_vcg_all_lift hoare_vcg_ex_lift hoare_vcg_imp_lift' gts_wp')+
+    apply (intro conjI; clarsimp?)
+        apply (auto simp: obj_at'_def projectKO_eq projectKO_ep valid_obj'_def valid_ep'_def
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:4117]: Auto here too

File: proof/refine/ARM/TcbAcc_R.thy [hunk 11]
```diff
@@ -5224,20 +5220,19 @@ lemma sts_invs_minor':
                    \<and> (st \<noteq> Inactive \<and> \<not> idle' st \<longrightarrow>
                       st' \<noteq> Inactive \<and> \<not> idle' st')) t
       and (\<lambda>s. t = ksIdleThread s \<longrightarrow> idle' st)
-      and sch_act_simple
+      and sch_act_not t
```
Comment (michaelmcinerney) [inline proof/refine/ARM/TcbAcc_R.thy:5223]: Awesome!

**Review by michaelmcinerney — APPROVED** [review]
Excellent!

File: proof/refine/ARM/Ipc_R.thy (hunk 4 above)
Comment (ryybrr) [reply proof/refine/ARM/Ipc_R.thy:3794]: Some wp rules require valid_objs' as a precondition to schedContextDonate. Having a monadic rewrite rule for replyPush means we only need to prove that valid_objs' is invariant over replyPush'.

File: proof/refine/ARM/Ipc_R.thy [hunk 12]
```diff
@@ -3560,160 +3560,622 @@ lemma cteInsert_ct'[wp]:
...
+  "valid_tcb_state' ts (s\<lparr>ksReadyQueues := qs\<rparr>) = valid_tcb_state' ts s"
+  "valid_tcb_state' ts (s\<lparr>ksReadyQueuesL1Bitmap := l1b\<rparr>) = valid_tcb_state' ts s"
+  "valid_tcb_state' ts (s\<lparr>ksReadyQueuesL2Bitmap := l2b\<rparr>) = valid_tcb_state' ts s"
+  "valid_tcb_state' ts (s\<lparr>ksSchedulerAction := sa\<rparr>) = valid_tcb_state' ts s"
+  by (auto simp: valid_tcb_state'_def valid_bound_obj'_def split: thread_state.splits option.splits)
+
+crunches addToBitmap, setQueue
+  for valid_tcb_state'[wp]: "valid_tcb_state' ts"
+
+lemma setSchedContext_obj_at':
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3680]: Are you able to move this and the following lemmas to the `simple_ko'` locale? If you can it would let you avoid duplicating it for the various different types and constants.

File: proof/refine/ARM/Ipc_R.thy (hunk 7 above)
Comment (corlewis) [reply proof/refine/ARM/Ipc_R.thy:3939]: I don't think that we have a strong rule on this, but the preference is to avoid `auto` in the middle of proofs. In this case it's a bit more complicated since the auto is solving two goals, and we also don't want to just copy and paste it if we can avoid it.

In my mind, the optimal but possibly hard than it's worth solution would be to somehow handle all three of the final subgoals together, in one terminating `auto`. The other options that I'm equally happy with are leaving it as is, or using `prefer` to handle the `fastforce` first, before finishing with the `auto`.

@mbrcknl @Xaphiosis @lsf37 @mktnk3 Do any of you have an opinion?

File: proof/refine/ARM/Ipc_R.thy [hunk 13]
```diff
@@ -3560,160 +3560,622 @@ lemma cteInsert_ct'[wp]:
...
+
+lemma replyPush_valid_idle':
+  "\<lbrace>valid_idle' and valid_pspace' and st_tcb_at' active' callerPtr\<rbrace>
+   replyPush callerPtr calleePtr replyPtr canDonate
+   \<lbrace>\<lambda>_. valid_idle'\<rbrace>"
+  apply (simp only: replyPush_def)
+  apply (simp split del: if_split
+         | wp hoare_vcg_if_lift[where f="setReply _ _"] hoare_vcg_imp_lift'
+              hoare_vcg_all_lift setReply_obj_at' schedContextDonate_valid_idle'
+         | (rule hoare_lift_Pf3[where f=ksIdleThread,rotated]; wp setSchedContext_obj_at'))+
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:3953]: I'm fine with this if it's necessary, but this is a bit of a messy apply step. It definitely doesn't work with some combination of `wpsimp` and `wps`?

**Review by pierzchalski — APPROVED** [review]

**Review by corlewis — APPROVED** [review]
Great job with this, both with the new proofs and also with the existing preconditions that you've managed to simplify!

File: proof/refine/ARM/Ipc_R.thy (hunk 8 above)
Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:4004]: This does seem interesting. I would like to have a closer look at this...

File: proof/refine/ARM/Ipc_R.thy (hunk 10 above)
Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:4117]: again, I think this one is ok, too, since it’s limited to one subgoal. You can do `subgoal`, too, of course, but I don’t think there is particular advantage in choosing that over `[1]` here. I might be wrong, though...

**Review by mktnk3 — APPROVED** [review]
Nicely done! This is a big chunk of work - thanks, Ryan.

File: proof/refine/ARM/Ipc_R.thy (hunk 2 above)
Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:3640]: > A little rule to introduce the `sc_at'` fact is nice, but I'd prefer to not include the `sym_refs` assert here; we may add more asserts in the future, which would mean updating this too, and it's easy enough to use `stateAssert_sp` to add the assert to the preconditions

Actually, I am not sure what exactly mean, Michael. Which assert do you prefer not including?

Comment (michaelmcinerney) [reply proof/refine/ARM/Ipc_R.thy:3640]: I'd rather not have `sym_refs (state_refs_of' s)` in the precondition here. I think it would be better to have a rule to add the `sc_at'` bit to the preconditions, and just use `stateAssert_sp` separately to get the `sym_refs` bits. That way, if we add further asserts to `schedContextDonate` later on, we won't need to update this proof too. Not that this is a big deal

Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:3640]: Right. I see. We might want to look again why Ryan wants `sym_refs` in the later proofs.

Comment (ryybrr) [reply proof/refine/ARM/Ipc_R.thy:3640]: > I'd rather not have `sym_refs (state_refs_of' s)` in the precondition here. I think it would be better to have a rule to add the `sc_at'` bit to the preconditions, and just use `stateAssert_sp` separately to get the `sym_refs` bits. That way, if we add further asserts to `schedContextDonate` later on, we won't need to update this proof too. Not that this is a big deal
It's not in the precondition, this is just a rule to add it to the precondition. To make it clearer, I've removed this lemma and added the proofs to `schedContextDonate_invs'` instead.

File: proof/refine/ARM/Ipc_R.thy (hunk 5 above)
Comment (ryybrr) [reply proof/refine/ARM/Ipc_R.thy:3846]: > What's x? Could you do a rename_tac?

It's a bit hard to rename this one; I don't know what name I could give to `(if scPtrOptCallee ≠ Nothing then False else canDonate)`, and there are 9 other variables after `x` that I'd have to rename too unless there's a way to target one variable in particular.

Comment (michaelmcinerney) [reply proof/refine/ARM/Ipc_R.thy:3846]: Ah. In that case, don't worry about it

File: proof/refine/ARM/Ipc_R.thy (hunk 13 above)
Comment (ryybrr) [reply proof/refine/ARM/Ipc_R.thy:3953]: > I'm fine with this if it's necessary, but this is a bit of a messy apply step. It definitely doesn't work with some combination of `wpsimp` and `wps`?

This is about as simple as I can make it, unfortunately. The simp step needs to take precedence over the wp step, and the application of hoare_lift_Pf3 causes looping when I use it with the other wp rules.

File: proof/refine/ARM/Ipc_R.thy (hunk 7 above)
Comment (ryybrr) [reply proof/refine/ARM/Ipc_R.thy:3939]: Resolved by changing the auto instance into two separate fastforces

File: proof/refine/ARM/Ipc_R.thy (hunk 10 above)
Comment (ryybrr) [reply proof/refine/ARM/Ipc_R.thy:4117]: Changed to force since fastforce didn't work

File: proof/refine/ARM/Ipc_R.thy (hunk 12 above)
Comment (pierzchalski) [reply proof/refine/ARM/Ipc_R.thy:3680]: This looks like a missing variant of `simple_ko'.obj_at'_strongest`. There are "nice" "simple" variants for `P (ko_at' ko p s)` but not for `P (obj_at' Q p s)`, so it makes sense to add a `simple_ko'.obj_at'` which has the form of your `setSchedContext_obj_at'`: this is probably the form people find most useful/familiar.
